US09315475B2
Step 1: Preparation of tert-butyl (2R,5R)-5-(azidomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate
To a solution of tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate (1 eq.) in CH2Cl2 (0.4M) was added copper(II) sulfate (0.02 eq.) and sodium bicarbonate (1 eq.) as a solution in water (NaHCO3/CuSO4)) (1M). To that mixture was added triflic azide (3.65 eq.) as a solution in CH2Cl2 (0.4M). The heterogenous mixture was homogenized by the addition of methanol and the reaction was stirred at room temperature for 30 minutes. Upon completion by LCMS, solvents were evaporated and the evaporation residue was used as such for next step.

reactant | tert-butyl (2R,5R)-5-(aminomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | 1 eq. | NC[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H44N4O6
reactant | sodium bicarbonate | 1 eq. | C([O-])(O)=O.[Na+]
reactant | triflic azide | 3.65 eq. | S(=O)(=O)(C(F)(F)F)N=[N+]=[N-] | CF3N3O2S
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | 0.4M | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | CH2Cl2 | 0.4M | C(Cl)Cl | CH2Cl2
catalyst | copper(II) sulfate | 0.02 eq. | S(=O)(=O)([O-])[O-].[Cu+2]
product | tert-butyl (2R,5R)-5-(azidomethyl)-2-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-4-carboxylate | N(=[N+]=[N-])C[C@@H]1CO[C@@H](CN1C(=O)OC(C)(C)C)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C35H42N6O6
